US07271262B2
239B. (4-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(3-iodo-phenyl)-methanone
n-BuLi (3.65 mL, 2.5 M in hexanes, 9.14 mmol) was added dropwise to a solution of 5-Bromo-4-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine (2.5 g, 8.31 mmol) in THF (50 mL) at −78° C. After 30 min a solution of 3-Iodo-N-methoxy-N-methyl-benzamide (2.29 g, 7.8 mmol) in THF (10 mL) was added. After 30 min the reaction was quenched with water and allowed to warm to room temperature. The layers were separated and the aqueous layer was extracted with EtOAc (2×). The combined organic layers were washed with water and dried over Na2SO4. Recrystallization from MeOH afforded the title compound as a white solid (1.74 g, 49%). MS: 451.9/453.9 (MH+); HPLC Rf: 7.44 min. (HPLC method 4).

reactant | n-BuLi | 9.14 mmol, 2.5 M, 3.65 mL | [Li]CCCC
reactant | 5-Bromo-4-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine | 8.31 mmol, 2.5 g | BrC1=CN(C=2N=CN=C(C21)Cl)C2CCCC2 | C11H11BrClN3
reactant | 3-Iodo-N-methoxy-N-methyl-benzamide | 7.8 mmol, 2.29 g | IC=1C=C(C(=O)N(C)OC)C=CC1 | C9H10INO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (4-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(3-iodo-phenyl)-methanone | 1.74 g, 49% | ClC=1C2=C(N=CN1)N(C=C2C(=O)C2=CC(=CC=C2)I)C2CCCC2 | C18H15ClIN3O
